US04049823
10 g. of 3-p-phenoxyphenyl-3-hydroxybutyric acid ethyl ester are dissolved in 50 ml. of ethanol and the solution is boiled for 15 minutes with 2 g. of KOH, evaporated and subjected to standard working up to give 3-p-phenoxyphenyl-3-hydroxybutyric acid, m.p. 137°-138°. Cyclohexylamine salt, m.p. 188°-189°.

reactant | 3-p-phenoxyphenyl-3-hydroxybutyric acid ethyl ester | C(C)OC(CC(C)(O)C1=CC=C(C=C1)OC1=CC=CC=C1)=O | C18H20O4
solvent | ethanol | C(C)O | C2H6O
product | 3-p-phenoxyphenyl-3-hydroxybutyric acid | O(C1=CC=CC=C1)C1=CC=C(C=C1)C(CC(=O)O)(C)O | C16H16O4
